filesource staircase non-interpolating and interpolating

* non-interpolating
.model filesrc filesource (file="my-source.txt"
+ amploffset=[0.1 0.1] amplscale=[3.0 3.0]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=true)

* interpolating
.model filesrc2 filesource (file="my-source.txt"
+ amploffset=[0.1 0.1] amplscale=[3.0 3.0]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=false)

A1 %vd([1 0 N_IN 0]) filesrc
Rload N_IN 0 1k

A2 %vd([2 0 N_IN2 0]) filesrc2
Rload2 N_IN2 0 1k

.control
option NOINIT ACCT

tran 1us 100us
display
plot allv
quit
.endc
.end
